US20010018525A1
4{-2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy] -ethoxy}-2-hydroxy-benzoic acid
To a solution of 4-{2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester (1.16 mmol, 1 eq) in EtOH (20 mL) was added 1M NaOH (10 mL) and the reaction was heated at reflux 90 min. It was then cooled to rt, concentrated in vacuo, diluted with H2O, and acidified with 2M HCl to pH 1. It was extracted with EtOAc, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (30% EtOAc:Hexane+1% Formic acid) to afford the title compound (0.607 g, 79%) as a white foam. 1H NMR (DMSO-d6 δ13.55 (bs, 1H); 11.49 (bs, 1H); 8.58 (t, 1H); 8.14 (d, 1H); 7.90-7.84 (m, 3H); 7.73-7.61 (m, 3H); 7.26-7.12 (m, 5H); 6.27-6.23 (m, 2H); 4.00 (m, 2H); 3.92 (m, 2H); 3.23 (dd, 2H); 2.52 (t, 2H); 1.52 (m, 4H); 1.28 (m, 8H); IR (KBr) 3400, 2950, 2850, 1660, 1620, 1550, 1450, 1420, 1330, 1220, 1160, 1120 cm−1; mass spectrum [(−)ESI], m/z 7261728 (M−H)−; Anal. Calcd. for C37H37F3NO6: C, 60.99; H, 5.12; N, 1.92, Found: C, 60.32; H, 5.17; N, 1.83.

reactant | 4-{2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester | 1.16 mmol, 1 eq | COC(C1=C(C=C(C=C1)OCCOC1=C(C=C(C=C1Br)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)O)=O | C38H39BrF3NO6
reactant | NaOH | 1M, 10 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4{-2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy] -ethoxy}-2-hydroxy-benzoic acid | 0.607 g, 79% | BrC=1C(=C(C=C(C1)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OCCOC1=CC(=C(C(=O)O)C=C1)O | C37H37BrF3NO6
